US04268507
4-Phenylbutylphosphonic acid (Compound No. 15)
A mixture of 5.4 g (20 mmol) of diethyl 4-phenylbutylphosphonate (Compound 11, synthesized exactly by the same method described in Example 5) and 14 g of 37% hydrochloric acid was refluxed for five hours. The excess of acid was removed under vacuum leaving an oil that slowly solidified Recrystallization from an ethanol:petroleum ether (40:60) mixture gave 1.7 g (8 mmol) of white crystals.

reactant | diethyl 4-phenylbutylphosphonate | 20 mmol, 5.4 g | C1(=CC=CC=C1)CCCCP(OCC)(OCC)=O | C14H23O3P
reactant | hydrochloric acid | 14 g | Cl | ClH
product | 4-Phenylbutylphosphonic acid | 8 mmol, 1.7 g, yield=39% | C1(=CC=CC=C1)CCCCP(O)(O)=O | C10H15O3P
